US07576108B2
Add tetrabutylammonium fluoride trihydrate (546 mg, 1.73 mmol) to a mixture of (4-bromo-2-fluoro-phenylsulfanyl)-triisopropyl-silane (570 mg, 1.57 mmol) and potassium carbonate (650 mg, 4.71 mmol) in 20 mL THF and stir at r.t. for 1 h. Add methyl iodide, stir for 1 h and concentrate to remove THF. Add 20 mL water, extract with diethylether, dry the combined organic extracts over sodium sulfate, filtrate and concentrate under reduced pressure to obtain 4-bromo-2-fluoro-1-methylsulfanyl-benzene (347 mg) as a colorless liquid, which was used for following conversions without further purifications. MS (m/e): 220 [(79Br)M], 222 [(81Br)M].

reactant | tetrabutylammonium fluoride trihydrate | 1.73 mmol, 546 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (4-bromo-2-fluoro-phenylsulfanyl)-triisopropyl-silane | 1.57 mmol, 570 mg | BrC1=CC(=C(C=C1)S[Si](C(C)C)(C(C)C)C(C)C)F | C15H24BrFSSi
reactant | potassium carbonate | 4.71 mmol, 650 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-fluoro-1-methylsulfanyl-benzene | 347 mg | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
